US07470699B2
Preparation of 4-[5-Bromo-6-(2-fluoro-4-methanesulfonyl-phenoxy)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (Compound C155)
4-[6-(2-fluoro-4-methanesulfonyl-phenoxy)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (1.02 g, 2.25 mmol) and NBS (601 mg, 3.38 mmol) in acetic acid (10 mL) was stirred at 40° C. for three days. The mixture was purified through HPLC to provide compound C155 as a solid (685 mg, 50%). 1H NMR (CDCl3, 400 MHz) δ 1.24 (d, 6H), 1.82-1.86 (m, 2H), 1.94-1.98 (m, 2H), 3.08 (s, 3H), 3.46-3.52 (m, 2H), 3.68-3.74 (m, 2H), 4.92 (hept, 1H), 5.38-5.42 (m, 1H), 7.42-7.46 (m, 1H), 7.77-7.81 (m, 2H), 8.18 (s, 1H). Exact mass calculated for C20H23FBrN3O6S 531.1, found 532.4/534.4 (MH+).

reactant | 4-[6-(2-fluoro-4-methanesulfonyl-phenoxy)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | 2.25 mmol, 1.02 g | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1)OC1=C(C=C(C=C1)S(=O)(=O)C)F | C20H24FN3O6S
reactant | NBS | 3.38 mmol, 601 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 4-[5-Bromo-6-(2-fluoro-4-methanesulfonyl-phenoxy)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | 685 mg, 50% | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1Br)OC1=C(C=C(C=C1)S(=O)(=O)C)F | C20H23BrFN3O6S
